US06437184B1
First, 0.45 g of 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentyloxyacetone oxime, 0.12 g of triethylamine, and 10 ml of tetrahydrofuran are placed in a reaction vessel, to which a solution of 0.23 g of p-toluenesulfonyl chloride dissolved in 5 ml of tetrahydrofuran is slowly added dropwise with stirring under ice cooling. After completion of the addition, the reaction mixture is further stirred at room temperature for 30 minutes, poured into diluted hydrochloric acid, and extracted twice with diethyl ether. The diethyl ether layers are combined, washed with water, dried over anhydrous magnesium sulfate, and concentrated to give a crude product. This crude product is subjected to silica gel chromatography, which affords 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentyloxyacetone O-(p-toluenesulfonyl)oxime.

reactant | 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentyloxyacetone oxime | 0.45 g | ClC1=C(OCCCCCOCC(C)=NO)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C17H21Cl4NO4
reactant | triethylamine | 0.12 g | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 0.23 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentyloxyacetone O-(p-toluenesulfonyl)oxime | C1(=CC=C(C=C1)S(=O)(=O)ON=C(C)COCCCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl)C | C24H27Cl4NO6S
